US07074798B2
e) 4-[7-(2-Methoxyphenyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1-(Ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester, 2-methoxyphenyl boronic acid (60 mg), and copper (II) acetate (200 mg) were dissolved in anhydrous tetrahydrofuran (5 ml), and pyridine (0.2 ml) was added thereto. The reaction mixture was stirred at room temperature for 3 days, filtered through a short column packed with NH-silica gel, and the filtrate was concentrated. The residue was purified by silica gel column chromatography to obtain 18 mg of the title compound from a fraction eluted with hexane-ethyl acetate (1:1).

reactant | 4-[1-(Ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1)=O)CC(=O)OCC)=O)C | C19H28N6O6
reactant | 2-methoxyphenyl boronic acid | 60 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | copper (II) acetate | 200 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-[7-(2-Methoxyphenyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 18 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)OC)=O)CC(=O)OCC)=O)C | C26H34N6O7
